** sch_path: /home/vncuser/design_data/test_design/xschem/DIFF_AMP_TB_TRANS.sch
**.subckt DIFF_AMP_TB_TRANS
x1 VDD VIN- VIN+ VBIAS 0 out DIFF_AMP
V1 VDD 0 1.8
V2 VIN+ 0 dc 0.9 sin 0.9 10n 1e6 0 0
V3 VIN- 0 0.9
V4 VBIAS 0 0.9

**** begin user architecture code

** opencircuitdesign pdks install
.lib /pdks/sky130A/libs.tech/combined/sky130.lib.spice tt

.include /home/vncuser/design_data/test_design/xschem/simulation/DIFF_AMP_TB_TRANS.save 

.control 
saveall 
op 
write DIFF_AMP_TRANS.raw 
set appendwrite 


trans 0.01u 10u 
write DIFF_AMP_TRANS.raw 
.endc

**** end user architecture code
**.ends

* expanding   symbol:  /home/vncuser/design_data/test_design/xschem/DIFF_AMP.sym # of pins=6
** sym_path: /home/vncuser/design_data/test_design/xschem/DIFF_AMP.sym
** sch_path: /home/vncuser/design_data/test_design/xschem/DIFF_AMP.sch
.subckt DIFF_AMP VDD VIN- VIN+ VBIAS VSS OUT
*.iopin OUT
*.iopin VDD
*.iopin VIN+
*.iopin VIN-
*.iopin VBIAS
*.iopin VSS
XM1 net1 VIN+ net2 net2 sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM2 OUT VIN- net2 net2 sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM3 net2 VBIAS VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM4 net1 net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM5 OUT net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
.ends

.end
